US08378108B2
A. Preparation of 6-cyclobutoxy-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide
Sodium hydride (60% in mineral oil, 15 mg, 0.38 mmol) was added to 0.5 mL of cyclobutanol and the reaction mixture was stirred for 10 minutes at room temperature. (N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-6-fluoro-3,4′-bipyridine-2′-carboxamide) (24 mg, 0.06 mmol) in cyclobutanol (0.2 mL) was added and the reaction mixture was heated to 90° C. for 30 minutes. The reaction mixture was concentrated under reduced pressure, neutralized with 1 M HCl and purified by reverse-phase HPLC to give the product as a white powder (15 mg, 55% yield). C26H24N6O2. 453.1 (M+1). 1H NMR (DMSO) d 10.92 (s, 1H), 8.79 (d, J=5.2 Hz, 1H), 8.72 (d, J=2.4 Hz, 1H), 8.62 (s, 1H), 8.58 (s, 1H), 8.41 (d, J=1.2 Hz, 1H), 8.26 (dd, J=4.8, 2.4 Hz, 1H), 8.07 (d, J=−8.0 Hz, 1H), 8.03 (dd, J=5.2, 2.0 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.55 (t, J=8.0 Hz, 1H), 6.95 (d, J=8.8 Hz, 1H), 5.22 (p, J=7.6 Hz, 1H), 3.66 (m, 1H), 2.45 (m, 2H), 2.10 (m, 2H), 1.85 (m, 1H), 1.70 (m, 1H), 1.08 (m, 2H), 0.95 (m, 2H).

reactant | Sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
reactant | N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-6-fluoro-3,4′-bipyridine-2′-carboxamide | C1(CC1)N1C(=NN=C1)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)C=1C=NC(=CC1)F | C22H17FN6O
reactant | cyclobutanol | 0.2 mL | C1(CCC1)O | C4H8O
reactant | cyclobutanol | 0.5 mL | C1(CCC1)O | C4H8O
product | 6-cyclobutoxy-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide | 15 mg, 55% yield | C1(CCC1)OC1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C1=NN=CN1C1CC1 | C26H24N6O2
